US07935716B2
At room temperature, 1.50 g of 2H-1,3-oxazine-2,6(3H)-dione, 2.19 g of potassium carbonate and 3.77 g of methyl iodide were sequentially added to 30 ml of acetone, and the mixture was stirred for 10 hours under heat refluxing condition. The reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure, and the resulting solid was dried to obtain 1.46 g of 3-methyl-2H-1,3-oxazine-2,6(3H)-dione represented by the formula:

reactant | 2H-1,3-oxazine-2,6(3H)-dione | 1.50 g | O1C(NC=CC1=O)=O | C4H3NO3
reactant | potassium carbonate | 2.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 3.77 g | CI | CH3I
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 3-methyl-2H-1,3-oxazine-2,6(3H)-dione | 1.46 g | CN1C(OC(C=C1)=O)=O | C5H5NO3
